US07906537B2
9a N-[2-Methyl-4-(4-trifluoromethyl-benzylamino)-phenyl]-butyramide
To a solution of (4-amino-3-methylphenyl)-(4-trifluoromethyl-benzyl)-carbamic acid tert-butyl ester (500 mg, 1.31 mmol) in dry tetrahydrofuran (10 mL) at 0° C. was added pyridine (159 mL, 1.97 mmol) followed by butyryl chloride (164 μL, 1.58 mmol) dropwise. After 5 minutes, the reaction mixture was allowed to warm to room temperature, and stirring was continued for 1 hour. The reaction mixture was then diluted with ethyl acetate, washed with 2 N HCl, saturated aqueous sodium bicarbonate twice, and brine, and was then dried over magnesium sulfate. Solvents were evaporated in vacuo and the residue was dissolved in a 1:1 mixture of dichloromethane and trifluoroacetic acid. After 30 minutes at room temperature the mixture was evaporated to dryness, the residue was dissolved in ethyl acetate (10 mL), the solution was washed twice with saturated aqueous sodium bicarbonate, twice with water, and was then dried over sodium sulfate. Evaporation of the solvents and recrystallization of the residue from ethyl acetate:heptane gave the title compound as a colorless solid (226 mg, 49%).

reactant | (4-amino-3-methylphenyl)-(4-trifluoromethyl-benzyl)-carbamic acid tert-butyl ester | 1.31 mmol, 500 mg | C(C)(C)(C)OC(N(CC1=CC=C(C=C1)C(F)(F)F)C1=CC(=C(C=C1)N)C)=O | C20H23F3N2O2
reactant | pyridine | 1.97 mmol, 159 mL | N1=CC=CC=C1 | C5H5N
reactant | butyryl chloride | 1.58 mmol, 164 μL | C(CCC)(=O)Cl | C4H7ClO
solvent | tetrahydrofuran | 10 mL | O1CCCC1 | C4H8O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | N-[2-Methyl-4-(4-trifluoromethyl-benzylamino)-phenyl]-butyramide | 226 mg, 49% | CC1=C(C=CC(=C1)NCC1=CC=C(C=C1)C(F)(F)F)NC(CCC)=O | C19H21F3N2O
